US07309718B2
(c) 3-[(E)-2-(7-chloroquinolin-2-yl)ethenyl]-5H-dibenzo[a,d]cyclohepten-5-one
In 30 ml of N,N-dimethylformamide were dissolved 0.89 g (2.5 mmol) of 3-trifluoromethanesulfonyloxy-5H-dibenzo[a,d]cyclohepten-5-one and 0.48 g (2.5 mmol) of 7-chloro-2-vinyl quinoline, and then, 100 mg (0.5 mmol) of palladium acetate, 420 mg (1.6 mmol) of triphenylphosphine and 2.1 g (24 mmol) of lithium bromide were added to the mixture and the atmosphere thereof was made nitrogen. Then, 5.0 ml (36 mmol) of triethylamine was added to the mixture, and the resulting mixture was stirred under nitrogen atmosphere at 120° C. for 10 hours.

reactant | 3-trifluoromethanesulfonyloxy-5H-dibenzo[a,d]cyclohepten-5-one | 2.5 mmol, 0.89 g | FC(S(=O)(=O)OC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C1)(F)F | C16H9F3O4S
reactant | 7-chloro-2-vinyl quinoline | 2.5 mmol, 0.48 g | ClC1=CC=C2C=CC(=NC2=C1)C=C | C11H8ClN
reactant | triphenylphosphine | 1.6 mmol, 420 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithium bromide | 24 mmol, 2.1 g | [Br-].[Li+]
reactant | triethylamine | 36 mmol, 5.0 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.5 mmol, 100 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[(E)-2-(7-chloroquinolin-2-yl)ethenyl]-5H-dibenzo[a,d]cyclohepten-5-one | ClC1=CC=C2C=CC(=NC2=C1)/C=C/C=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C1 | C26H16ClNO
